US08476300B2
5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile hydrochloride
Add 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carboxamide (79 mg, 0.16 mmol) and phosphoryl chloride (13 mL, 139.9 mmol) to a round bottom flask under nitrogen. Warm the resulting mixture to 100° C. and stir for 15 min. Cool the mixture to room temperature and concentrate in vacuo to give a yellow residue. Carefully quench the resulting residue with methanol and load onto an SCX acidic ion exchange column. Flush the column with methanol then elute desired material with 2M ammonia in methanol. Concentrate the ammonia containing eluent in vacuo to give a pale yellow solid. Dissolve the resulting solid in dichloromethane and treat with HCl (1M in ether, 5 mL). Concentrate in vacuo to obtain the title compound (81.5 mg, 0.16 mmol) 1H NMR (d6-DMSO) δ 0.82-0.73 (m, 1H), 1.33-1.23 (m, 4H), 2.88-2.80 (m, 2H), 3.36-3.31 (m, 5H), 3.81 (s, 3H), 4.23-4.19 (m, 2H), 6.73-6.63 (m, 2H), 6.87-6.77 (m, 2H), 7.15-7.09 (m, 1H), 7.41-7.36 (m, 1H), 7.62-7.54 (m, 1H), 7.87-7.77 (m, 3H), 8.09-8.05 (m, 1H), 10.58-10.45 (m, 1H).

reactant | 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carboxamide | 0.16 mmol, 79 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(S1)C(=O)N | C29H30N2O4S
reactant | phosphoryl chloride | 139.9 mmol, 13 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 1M, 5 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile hydrochloride | 0.16 mmol, 81.5 mg | Cl.COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(S1)C#N | InChI=1S/C29H28N2O3S.ClH/c1-32-24-10-13-26-21(19-24)5-12-27(28-14-11-25(20-30)35-28)29(26)34-23-8-6-22(7-9-23)33-18-17-31-15-3-2-4-16-31;/h5-14,19H,2-4,15-18H2,1H3;1H
